US09359375B2
A mixture of tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate (150 mg, 0.380 mmol), 4-fluoroaniline (75 uL, 0.792 mmol), BINAP (40 mg, 0.064 mmol), Pd(OAc)2 (25 mg, 0.11 mmol) and K2CO3 (150 mg, 1.08 mmol) in dioxane (3 mL) was degassed with Ar, then was stirred at 100 C for 16 h. EtOAc and water were added. The organic phase was separated, washed with 1N HCl, then with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give tert-butyl (1S,2R)-2-(4-cyano-3-(4-fluorophenylamino)phenylamino)cyclohexylcarbamate as a crude residue.

reactant | tert-butyl (1S,2R)-2-(3-bromo-4-cyanophenylamino)cyclohexylcarbamate | 0.380 mmol, 150 mg | BrC=1C=C(C=CC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C18H24BrN3O2
reactant | 4-fluoroaniline | 0.792 mmol, 75 uL | FC1=CC=C(N)C=C1 | C6H6FN
reactant | BINAP | 0.064 mmol, 40 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 1.08 mmol, 150 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.11 mmol, 25 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-butyl (1S,2R)-2-(4-cyano-3-(4-fluorophenylamino)phenylamino)cyclohexylcarbamate | C(#N)C1=C(C=C(C=C1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=CC=C(C=C1)F | C24H29FN4O2
